US04155996
7 g of potassium carbonate and 9.5 g of O,O-diethyl chlorothiophosphate were added to a solution of 7 g of 2-cyano-3-hydroxy-5-methyl-thiophene in 100 ml of acetone and the mixture was stirred for 15 hours at 20° C. and was then filtered. The filtrate was evaporated to dryness and the residue was chromatographed over silica gel. Elution with an 8-2 cyclohexane-ethyl acetate mixture yielded 11.2 g of 2-cyano-3-(diethoxythiophosphoryloxy)-5-methyl-thiophene with a refractive index of nD20 =1.534.

reactant | potassium carbonate | 7 g | C([O-])([O-])=O.[K+].[K+]
reactant | O,O-diethyl chlorothiophosphate | 9.5 g | P(=S)(OCC)(OCC)Cl | C4H10ClO2PS
reactant | 2-cyano-3-hydroxy-5-methyl-thiophene | 7 g | C(#N)C=1SC(=CC1O)C | C6H5NOS
solvent | acetone | 100 ml | CC(=O)C | C3H6O
product | 2-cyano-3-(diethoxythiophosphoryloxy)-5-methyl-thiophene | 11.2 g | C(#N)C=1SC(=CC1OP(=S)(OCC)OCC)C | C10H14NO3PS2
